### PR TITLE
[Merged by Bors] - feat(Computability): add FinEncodings for List Bool and pairs of types

### PR DESCRIPTION
**Pull request by BoltonBailey**
This PR contains `finEncoding`s relevant to developing complexity theory in downstream libraries. It is adapted from [this](https://leanprover.zulipchat.com/#narrow/channel/116395-maths/topic/Formalise.20the.20proposition.20P.20.E2.89.A0NP/near/451765788)[#maths > Formalise the proposition P ≠NP @ 💬](https://leanprover.zulipchat.com/#narrow/channel/116395-maths/topic/Formalise.20the.20proposition.20P.20.E2.89.A0NP/near/451765788) comment.

Co-authored-by: Daniel Weber

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by MichaelStollBayreuth** [comment]
Unassigning myself and adding `t-computability` -- not my area of expertise.

File: Mathlib/Computability/Encoding.lean [hunk 1]
```diff
@@ -143,7 +145,7 @@ def encodingNatBool : Encoding ℕ where
   decode n := some (decodeNat n)
   decode_encode n := congr_arg _ (decode_encodeNat n)
 
-/-- A binary fin_encoding of ℕ in bool. -/
+/-- A binary finEncoding of ℕ in bool. -/
```
Comment (YaelDillies) [inline Mathlib/Computability/Encoding.lean]: There seems to be more wrong things about this docstring
```suggestion
/-- A binary encoding of `ℕ` in `Bool`. -/
```

File: Mathlib/Computability/Encoding.lean [hunk 2]
```diff
@@ -214,4 +216,27 @@ theorem Encoding.card_le_aleph0 {α : Type u} (e : Encoding.{u, v} α) [Countabl
 theorem FinEncoding.card_le_aleph0 {α : Type u} (e : FinEncoding α) : #α ≤ ℵ₀ :=
   e.toEncoding.card_le_aleph0
 
+/-- A finEncoding of `List Bool` in `Bool`. -/
+def finEncodingListBool : FinEncoding (List Bool) where
+  Γ := Bool
+  encode := id
+  decode := Option.some
+  decode_encode _ := rfl
+  ΓFin := inferInstance
```
Comment (YaelDillies) [inline Mathlib/Computability/Encoding.lean]: Can you generalise this away from `Bool`?

File: Mathlib/Data/List/Basic.lean [hunk 3]
```diff
@@ -926,6 +926,12 @@ theorem filterMap_eq_map_iff_forall_eq_some {f : α → Option β} {g : α → 
     · simp +contextual [ha, ih]
   mpr h := Eq.trans (filterMap_congr <| by simpa) (congr_fun filterMap_eq_map _)
 
+@[simp]
+lemma filterMap_none (l : List α) :
+    l.filterMap (fun _ ↦ @Option.none β) = [] := by
+  induction l <;> simp [*]
+
+
 /-! ### filter -/
```
Comment (YaelDillies) [inline Mathlib/Data/List/Basic.lean]:
```suggestion
/-! ### filter -/
```

File: Mathlib/Data/Sum/Basic.lean [hunk 4]
```diff
@@ -68,6 +68,30 @@ theorem getRight_eq_getRight? (h₁ : x.isRight) (h₂ : x.getRight?.isSome) :
 @[simp] theorem isSome_getRight?_iff_isRight : x.getRight?.isSome ↔ x.isRight := by
   grind
 
+@[simp]
+lemma getLeft?_comp_inl {α β : Type*} :
+    Sum.getLeft? ∘ @Sum.inl α β = Option.some := by
+  ext
+  simp
```
Comment (YaelDillies) [inline Mathlib/Data/Sum/Basic.lean]: Do you really need these lemmas? Can you simplify using `Function.comp_def` instead?

File: Mathlib/Computability/Encoding.lean (hunk 2 above)
Comment (BoltonBailey) [reply Mathlib/Computability/Encoding.lean]: Good point!

File: Mathlib/Data/Sum/Basic.lean (hunk 4 above)
Comment (BoltonBailey) [reply Mathlib/Data/Sum/Basic.lean]: The original place these appeared is [here](https://leanprover.zulipchat.com/#narrow/channel/116395-maths/topic/Formalise.20the.20proposition.20P.20.E2.89.A0NP/near/451765788)[#maths > Formalise the proposition P ≠NP @ 💬](https://leanprover.zulipchat.com/#narrow/channel/116395-maths/topic/Formalise.20the.20proposition.20P.20.E2.89.A0NP/near/451765788).

It seems I can indeed replace them with `Function.comp_def` in this example, but I guess `Function.comp_def` should not be marked as simp because then it would be visually complicating lots of expressions. So barring that, I like having these as simp lemmas, because it will let things like the example be finished by `simp` without further user effort. Let me know if you feel strongly these should not be added and I can remove them if so.

Comment (YaelDillies) [reply Mathlib/Data/Sum/Basic.lean]: What I'm worried about is that there are potentially a lot of lemmas of the form `f (g x) = h x` that according to your logic would need to be duplicated into `f ∘ g = h`. I'll let someone else tie break

File: Mathlib/Computability/Encoding.lean [hunk 5]
```diff
@@ -214,4 +216,27 @@ theorem Encoding.card_le_aleph0 {α : Type u} (e : Encoding.{u, v} α) [Countabl
...
+/-- A `List` of symbols in a finite alphabet `α`, encoded directly. -/
+def finEncodingList (α : Type 0) [Fintype α] : FinEncoding (List α) where
+  Γ := α
+  encode := id
+  decode := Option.some
+  decode_encode _ := rfl
+  ΓFin := inferInstance
+
+/--
+Given `finEncoding` of `α` and `β`,
```
Comment (YaelDillies) [inline Mathlib/Computability/Encoding.lean]:
```suggestion
Given `FinEncoding` of `α` and `β`,
```
surely?

File: Mathlib/Computability/Encoding.lean [hunk 6]
```diff
@@ -188,7 +190,7 @@ def decodeBool : List Bool → Bool
 
 @[simp] theorem decode_encodeBool (b : Bool) : decodeBool (encodeBool b) = b := rfl
 
-/-- A fin_encoding of bool in bool. -/
+/-- A finEncoding of bool in bool. -/
```
Comment (YaelDillies) [inline Mathlib/Computability/Encoding.lean]: There are more docstrings to fix

**Review by YaelDillies — COMMENTED** [review]
Let's get someone else's opinion on these composition lemmas.

maintainer merge?

File: Mathlib/Data/Sum/Basic.lean (hunk 4 above)
Comment (Vierkantor) [reply Mathlib/Data/Sum/Basic.lean]: I don't like the idea of having `Function.comp_def` as a `@[simp]` lemma, because it would indeed make expressions a lot messier. But I don't like this duplication of all lemmas into a composed and an uncomposed form.

One option is to use [`@[to_fun]`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Tactic/ToFun.html) to generate these lemmas automatically. I don't really like that option either, because automatically generated duplication is still duplication.

Instead the right way to go is to teach `simp` that `l.filterMap f = l'.filterMap f'` follows from `∀ x ∈ l, f x = f' x`, and this is already a lemma in Mathlib: `List.filterMap_congr`. So if we add the `congr` attribute to `List.filterMap_congr` you don't need any of these `comp` lemmas: https://live.lean-lang.org/#codez=JYWwDg9gTgLgBAWQIYwBYBtgCMB0BhCcAVxiS2ExgE8cAVBA40rdAUwCh2IxWA7ORmBJkKwanFpEowXgHNOAE1YAzOMpkBRXgGMICmbIAywAM4wAQhAjo4ALgGEhzUdRwAxTTr0G4ACmNmcJbWAJRwAO6orFAccHCAycB2ALxBVujscXy6SslwwAoZcErZrLkA8mAwwBC8OCaEsUWsJQD6WXqlLblQyulx8R78tikyytEAkrxmSDoc7Cgw0lgkpQDaunJQALpwATA46ugw0chgLRuyUJwAAqsmoGBb7GwgIEi7pvuHx1CnLbw1UoAb0AjcBwQBNwHYJFQeAAqAC+fhs9j2cBBYVshTi6AOFB+pz8yiI/C6gDLCODXCpVGo4AG8UrgsIpVY7YZwLBUQoyBREbTU/g2AA8AG4AHxwe7gOCrWFPdhKVTqXhabIGAAKSGAUDgoIhUNoMNYCL8rHe9kGKu8cjRYV8rCwUItXn01sZdixDiYIkoNCdqutvjBAHWIWFItFGok2aacIlAKlEcHtscK7RyAA9cnakDhU6U0zgAIwhHBvMBwHAyGwAairJtwubg+YATMXS+WZFc4sUOo3ypVqrVS4AggjgaqgehLAGsTdnuzlfPnvickGWAMpEEA4WSsGCGFQwAD8IRCHridtwc9KC9xR2Xa43W53ACVgLJUIfj4VL21nXnchyPUlMtVj2G98RXFoVx4XgFAAGkTWdmg6H8SngpNv1zJ5+kGXJRgmKZSFmTh2DMKBeRgKRSgAOTVHUwXsA0eERLNHU8f1ZBtQkoTBQAkwlHccwDCVg02OGCTA9SRpDkOgECbQRhBYVgAEEiAzXwlUtF1ZA1LUELUNirSMT5gnQYt4g9DTnQMEyTNjCIohiTg4iqEBSnsNVrCoAEQGAJAbEAVEInLgAB6ABaUK4DAccIFUNAUDgNBTDgN5tFQGRSgAN2iYB1FYEw4AAA2UAq8n4eKQAgQICpc1hfBkJwcDYOQ0BCEqzFYMB8tC4LCggEgnBMNxiXdOI4kAACI4CQWDTzUSa4EAFMIZsAYCJ2ShVETPgqjAXAcRfHoJsyn6kgTEmWhQFKGAQBm0abr8Xx1IMrSdO1U19OVKy5D2EziwbXwpvZY8SxXUqnCU9AwFQMgdwrXgMqG3gT1upHRt8OoGjuh73vYmy0hzX8ErI1hW2BvqYFB8HIawaGZDh4lj0R5Gkd8GqcwyvyZzxkpJuLJrZBak8gA

**Review by Vierkantor — COMMENTED** [review]
GitHub doesn't like adding suggestions in unchanged code. So: could you please add the `@[congr]` attribute to `List.filterMap_congr`, in `Mathlib.Data.List.Basic` line 988:

```lean4
@[congr]
theorem filterMap_congr {f g : α → Option β} {l : List α}
    (h : ∀ x ∈ l, f x = g x) : l.filterMap f = l.filterMap g := by
  induction l <;> simp_all [filterMap_cons]
```

Then we can revert the additions to `Mathlib.Data.Sum.Basic`.

File: Mathlib/Data/Sum/Basic.lean (hunk 4 above)
Comment (BoltonBailey) [reply Mathlib/Data/Sum/Basic.lean]: Nice, this works!

**Review by Vierkantor — APPROVED** [review]
Looks good to me, thanks! Let's get the maintainers' attention again.

maintainer merge
